US07842713B2
Preparation of Intermediate 200a: 3,5-Bis-benzyloxy-4-bromo-benzoic acid benzyl ester
To a stirred solution of 4-bromo-3,5-dihydroxy-benzoic acid (350 g, 1.5 mol) in dry DMF (2 L) were added K2CO3 (725 g, 5.25 mL) and BnBr (769 g, 4.5 mol) in one portion. The mixture was stirred at room temperature for 2 days and then filtered. The filter cake was washed with CH2Cl2. The combined filtrates were concentrated to give the title compound (225 g, 40% yield) as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.22-7.52 (m, 17 H), 5.38 (s, 2 H), 5.21 (s, 4 H).

reactant | 4-bromo-3,5-dihydroxy-benzoic acid | 1.5 mol, 350 g | BrC1=C(C=C(C(=O)O)C=C1O)O | C7H5BrO4
reactant | K2CO3 | 5.25 mL, 725 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 4.5 mol, 769 g | C1=CC=C(C=C1)CBr | C7H7Br
solvent | DMF | 2 L | CN(C)C=O | C3H7NO
product | 3,5-Bis-benzyloxy-4-bromo-benzoic acid benzyl ester | 225 g, 40% yield | C(C1=CC=CC=C1)OC(C1=CC(=C(C(=C1)OCC1=CC=CC=C1)Br)OCC1=CC=CC=C1)=O | C28H23BrO4
